.title Woolly Mammoth

VCC 9 0 DC 9V

* Two stage amplifier
R3 9 1 51k
R4 9 2 20k
Q1 1 3 0 Q2N3904 Is=4.639e-15 Bf=160.1 Br=5.944 Vt=0.026
Q2 2 1 5 Q2N3904 Is=4.639e-15 Bf=160.1 Br=5.944 Vt=0.026

* Pinch pot
R2 3 4 100k
Ppinch 4 5 8 500k Pos=0.5 Taper=LIN
W1 8 5

* Wool pot
C6 5 6 100e-6
R1 8 0 2.2k
Pwool 6 10 0 2k Pos=0.5 Taper=LIN

C1 7 3 0.22e-6
C2 3 0 10e-9

.input 7
.output 2
.warmup 60
.ctrl 0 Ppinch
.ctrl 1 Pwool
.probe wolly-mammoth.csv V(7) V(2)